US03948928
3-(2-Imidazolin-2-yl)methyl-1,2-benzisoxazole hydrochloride
In ethanol (10 ml) was dissolved ethyl 1,2-benzisoxazole-3-acetimidate hydrochloride (2.0 g) and thereto was added ethylenediamine (0.6 g) under ice-cooling and the mixture was allowed to stand at 5°C overnight. To the mixture was added ethanolic hydrochloric acid and the precipitated crystallines were separated by filtration and recrystallized from ethanol to give the desired compound (1.85 g). m.p. 223° to 228°C.

reactant | ethyl 1,2-benzisoxazole-3-acetimidate hydrochloride | 2.0 g | Cl.O1N=C(C2=C1C=CC=C2)CC(OCC)=N
reactant | ethylenediamine | 0.6 g | C(CN)N | C2H8N2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(2-Imidazolin-2-yl)methyl-1,2-benzisoxazole hydrochloride | 1.85 g | Cl.N1C(=NCC1)CC1=NOC2=C1C=CC=C2 | InChI=1S/C11H11N3O.ClH/c1-2-4-10-8(3-1)9(14-15-10)7-11-12-5-6-13-11;/h1-4H,5-7H2,(H,12,13);1H
